US07105507B2
(RS)-1,1-Dimethylethyl 4-(1,2-Dihydroxyethyl)-4-(phenylmethoxymethyl)-1-piperidinecarboxylate
Osmium tetroxide (2.5 wt % solution in tert-butanol, 240 mL) was added to a mixture of 1,1-dimethylethyl 4-ethenyl-4-(phenylmethoxymethyl)-1-piperidinecarboxylate (Description 96, 1.01 g, 3 mmol) and N-methylmorpholine-N-oxide (460 mg, 4 mmol) in water (4 mL) and tetrahydrofuran (12 mL). The mixture was stirred at room temperature for 24 hours then saturated aqueous sodium hydrogen sulphate (5 mL) was added. The mixture was extracted with ethyl acetate (2×15 mL), the combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound (1.05 g, 96%). m/z (ES+) 366 (M+1).

reactant | 1,1-dimethylethyl 4-ethenyl-4-(phenylmethoxymethyl)-1-piperidinecarboxylate | 3 mmol, 1.01 g | C(=C)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C20H29NO3
reactant | N-methylmorpholine-N-oxide | 4 mmol, 460 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium hydrogen sulphate | 5 mL | S(=O)(=O)(O)[O-].[Na+]
reactant | water | 4 mL | O | H2O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
catalyst | Osmium tetroxide | 240 mL | [Os](=O)(=O)(=O)=O
product | (RS)-1,1-Dimethylethyl 4-(1,2-Dihydroxyethyl)-4-(phenylmethoxymethyl)-1-piperidinecarboxylate | 1.05 g, 96% | OC(CO)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C20H31NO5
